US05051422
4-(1H-Imidazol-1-yl)-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]-methyl]benzamide, [RS]
To N,N-dimethylformamide (200 mL) under nitrogen atmosphere add 4-(1H-imidazol-1-yl)benzoic acid (7.0 g, 37 mmol) and 1,1-carbonyldiimidazole (6.0 g, 37 mmol) and stir for 1 h. Add 4-phenyl-1-(phenylmethyl)-2-piperazinemethanamine (9.5 g, 34 mmol) and stir. Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction remove the solvent in vacuo. To the oil add water (100 mL), a saturated solution of sodium bicarbonate (30 mL) andmethylene chloride (200 mL) and stir for 1 h. Separate the layers and extract the aqueous layer with methylene chloride. Concentrate the combined organic layers to give an oil. Flash chromatograph the oil on silica (1000 g) with a mixture of methylene chloride, methanol, triethylamine (97/2/1). Combine and concentrate the fractions containing product. Recrystallize the solid from ethyl acetate/hexane to provide the title compound.

reactant | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
reactant | 4-(1H-imidazol-1-yl)benzoic acid | 37 mmol, 7.0 g | N1(C=NC=C1)C1=CC=C(C(=O)O)C=C1 | C10H8N2O2
reactant | 4-phenyl-1-(phenylmethyl)-2-piperazinemethanamine | 34 mmol, 9.5 g | C1(=CC=CC=C1)N1CC(N(CC1)CC1=CC=CC=C1)CN | C18H23N3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | 4-(1H-Imidazol-1-yl)-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]-methyl]benzamide | N1(C=NC=C1)C1=CC=C(C(=O)NCC2N(CCN(C2)C2=CC=CC=C2)CC2=CC=CC=C2)C=C1 | C28H29N5O
